US06492508B1
Hydroxyproline Incorporation into Type I (α1) Collagen in E. coli
A plasmid (pHuCol(α1)Ec, FIG. 65) containing the gene for Type I (α1) collagen with optimized E. coli codon usage (FIGS. 39A-39E) (SEQ. ID. NO. 19) under control of the tac promoter and containing the gene for chloramphenicol resistance was used to transform by electroporation proline auxotrophic E. coli strain JM109 (F−). Transformation cultures were plated on LB agar containing 20 μg/ml chloramphenicol. After overnight incubation at 37° C., a single colony from a fresh transformation plate was used to inoculate 100 ml of LB media containing 20 μg/ml chloramphenicol. This culture was grown to an OD600 nm of 0.5 and 100 μl aliquots transferred to 1.5 ml tubes. The tubes were stored at −80° C. For expression, a tube was thawed on ice and used to inoculate 25 ml of LB media containing 20 μg/ml chloramphenicol. After overnight growth at 37° C., a four ml aliquot was withdrawn, centrifuged, the cell pellet washed once with 1 ml of 2×YT media containing 20 μg/ml chloramphenicol, and the washed cells used to inoculate 1 L of 2×YT medium containing 20 μg/ml chloramphenicol. This culture was grown at 37° C. to an OD600 nm of 0.8. The culture was centrifuged and the cell pellet washed once with 100 ml of M9 medium (1×M9 salts, 0.5% glucose, 1 mM MgCl2, 0.01% thiamine, 200 μg/ml glycine, 200 μg/ml alanine, 100 μg/ml of the other amino acids except proline, and 20 μg/ml chloramphenicol). The cells were resuspended in 910 ml of M9 medium (1×M9 salts, 0.5% glucose, 1 mM MgCl2, 0.01% thiamine, 200 μg/ml glycine, 200 μg/ml alanine, 100 μg/ml of the other amino acids except proline, and 20 μg/ml chloramphenicol) and allowed to grow at 37° C. for 30 minutes. NaCl (80 ml of 5 M), hydroxyproline (7.5 ml of 2M), and IPTG (500 μl of 1 M) were added and growth continued for 3 hours. Cells were harvested by centrifugation and stored at −20° C.

reactant | chloramphenicol | C1=CC(=CC=C1[C@H]([C@@H](CO)NC(=O)C(Cl)Cl)O)[N+](=O)[O-] | C11H12Cl2N2O5
reactant | proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
product | Hydroxyproline | N1[C@H](C(=O)O)C[C@@H](O)C1 | C5H9NO3
